US04298529
6 N Hydrochloric acid (2.4 ml), 7-(2-methoxyimino-3,3-diethoxy-4-chlorobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 301.5 mg) and methlene chloride (3 ml) were treated in a similar manner to that of Example 48 to give 7-(2-methoxyimino-3-oxo-4-chlorobutyramido)-3-cephem-4-carboxylic acid (syn isomer, 110.4 mg).

reactant | Hydrochloric acid | 6 N, 2.4 ml | Cl | ClH
reactant | 7-(2-methoxyimino-3,3-diethoxy-4-chlorobutyramido)-3-cephem-4-carboxylic acid | 301.5 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CCl)(OCC)OCC | C16H22ClN3O7S
solvent | methlene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 7-(2-methoxyimino-3-oxo-4-chlorobutyramido)-3-cephem-4-carboxylic acid | 110.4 mg | CON=C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)O)C1=O)C(CCl)=O | C12H12ClN3O6S
